US07842696B2
DIPEA (189 mg, 0.256 mL, 1.48 mmol) was added to a stirred solution of 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (prepared by the method described above) (208 mg, 0.59 mmol) in DMF (2 mL). HOBT (80 mg, 0.59 mmol) and EDCI (114 mg, 0.59 mmol) were then added at room temperature. After 2 minutes, 5-Methyl-1-phenyl-1H-pyrazole-4-carboxylic acid (100 mg, 0.49 mmol) was added and the resulting mixture was stirred at room temperature for 4 hrs. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 29 mg (11.74% yield) 5-Methyl-1-phenyl-1H-pyrazole-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 94.32%. 1H NMR (DMSO-d6): δ 8.24 (bs, 1H), 8.14 (s, 1H), 7.88-7.74 (m, 2H), 7.7-7.6 (m, 1H), 7.6-7.4 (m, 6H), 4.2-4.4 (d, 2H), 3.9-3.6 (m, 4H), 3.5-3.4 (m, 2H), 3.2-3.0 (m, 2H).

reactant | DIPEA | 1.48 mmol, 0.256 mL, 189 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
reactant | HOBT | 0.59 mmol, 80 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.59 mmol, 114 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 5-Methyl-1-phenyl-1H-pyrazole-4-carboxylic acid | 0.49 mmol, 100 mg | CC1=C(C=NN1C1=CC=CC=C1)C(=O)O | C11H10N2O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-Methyl-1-phenyl-1H-pyrazole-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 29 mg, 11.74% yield | O=C(CNC(=O)C=1C=NN(C1C)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H24F3N5O3
